US08835631B2
(5) Synthesis of 1-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylacetamide
1-[5-(tert-Butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylamine (190 mg) was dissolved in pyridine (2 ml), acetic anhydride (0.13 ml) and 4-dimethylaminopyridine (17 mg) were added, and the mixture was stirred at room temperature for 4 hr. Methanol (2 ml) was added and the mixture was stirred for about 10 min. The solvent was evaporated, and the residue was purified by column chromatography (Yamazen HI-FLASH™ COLUMN size L, elution solvent: hexane/ethyl acetate) to give the title compound (158 mg).

reactant | 1-[5-(tert-Butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylamine | 190 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)C1(CC1)N | C15H26N2OSi
reactant | acetic anhydride | 0.13 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methanol | 2 ml | CO | CH4O
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 17 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylacetamide | 158 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)C1(CC1)CC(=O)N | C17H28N2O2Si
